US08309725B2
Preparation of 4-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-4-oxobutyric acid
2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (108.6 mg, 0.27 mmol) was dissolved in absolute CH2Cl2 (14 ml) under N2 in a 50 ml Schlenk flask. Succinic anhydride (33 mg, 0.33 mmol) and a spatula-tip of 4-(dimethylamino)pyridine (DMAP) were added to the solution. The mixture was stirred at room temperature overnight. The mixture was then evaporated almost to dryness in vacuo and the residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 8:2:0.1, l=17 cm, V=5 ml). The fractions with the product were evaporated in vacuo and the residue was taken up in CH2Cl2 again. The mixture was filtered with a glass filter crucible G4 and Celite and the filtrate was evaporated in vacuo. The yield gave a yellowish solid.

reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.27 mmol, 108.6 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | Succinic anhydride | 0.33 mmol, 33 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-4-oxobutyric acid | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)C(CCC(=O)O)=O | C24H31Cl2N3O4
